US08304419B2
KOtBu (6.23 ml of a 1M solution in THF, 6.23 mmol) was added to a solution of 6-chloro-2-fluoro-3-methylphenol (1.00 g, 6.23 mmol) and 18-CROWN-6 (0.823 g, 3.11 mmol) in DMSO (12 ml) at RT. After 20 mins, 3,5-difluorobenzonitrile (0.87 g, 6.23 mmol) was added and the solution was heated at 120° C. overnight. The reaction mixture was poured into water (50 mL) and extracted with EtOAc (2×20 mL). The organic layer was dried (Na2SO4), filtered, concentrated, and purified by silica gel chromatography (0-25% EtOAc/hexs) to provide 3-[(6-chloro-2-fluoro-3-methylphenyl)oxy]-5-fluorobenzonitrile (1.15 g, 66%) as an off-white solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.21 (dd, J=8.42, 1.46 Hz, 1H), 7.06-7.14 (m, 2H), 6.87-6.95 (m, 2H), 2.33 (d, J=2.11 Hz, 3H).

reactant | KOtBu | CC(C)(C)[O-].[K+]
reactant | 6-chloro-2-fluoro-3-methylphenol | 6.23 mmol, 1.00 g | ClC1=CC=C(C(=C1O)F)C | C7H6ClFO
reactant | 18-CROWN-6 | 3.11 mmol, 0.823 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | 3,5-difluorobenzonitrile | 6.23 mmol, 0.87 g | FC=1C=C(C#N)C=C(C1)F | C7H3F2N
solvent | THF | C1CCOC1 | C4H8O
solvent | DMSO | 12 ml | CS(=O)C | C2H6OS
solvent | water | 50 mL | O | H2O
product | 3-[(6-chloro-2-fluoro-3-methylphenyl)oxy]-5-fluorobenzonitrile | 1.15 g, 66% | ClC1=CC=C(C(=C1OC=1C=C(C#N)C=C(C1)F)F)C | C14H8ClF2NO
